US07417032B2
diethyl (5-bromo-2-chloro-benzyl)-phosphonate
A mixture of 9.88 g 5-bromo-2-chloro-benzylbromide in 6.10 ml triethylphosphite is stirred for 3 h at 130° C. Then a further 1.50 ml triethylphosphite are added, and the mixture is stirred for a further 3 h at 160° C. After cooling to ambient temperature the mixture is purified on silica gel (dichloromethane/methanol 1:0->9:1).

reactant | 5-bromo-2-chloro-benzylbromide | 9.88 g | BrC=1C=CC(=C(CBr)C1)Cl | C7H5Br2Cl
reactant | triethylphosphite | 6.10 ml | C(C)OP(OCC)OCC | C6H15O3P
reactant | triethylphosphite | 1.50 ml | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl (5-bromo-2-chloro-benzyl)-phosphonate | BrC=1C=CC(=C(CP(OCC)(OCC)=O)C1)Cl | C11H15BrClO3P
